US07432266B2
1,3-Diethyl-1H-indazole-6-carboxylic acid methoxy-methyl-amide (0.22 g, 0.86 mmol) was dissolved in tetrahydrofuran (8 mL) and cooled to −70° C. Methylmagnesium chloride (2 mL, 3M in tetrahydrofuran, 0.06 mol) was added dropwise and the resulting mixture was stirred for 30 minutes at −70° C. After warming to room temperature, the mixture was stirred for a further 3 minutes, then quenched by the addition of a chilled saturated solution of ammonium chloride. Ethyl acetate (150 mL) and water (40 mL) were then added and the product was extracted. The aqueous layer was re-extracted with ethyl acetate (75 mL). The organic layers were combined, dried, filtered, and concentrated to afford 200 mg of 1-(1,3-Diethyl-1H-indazol-6-yl)-ethanone.

reactant | 1,3-Diethyl-1H-indazole-6-carboxylic acid methoxy-methyl-amide | 0.86 mmol, 0.22 g | CON(C(=O)C1=CC=C2C(=NN(C2=C1)CC)CC)C | C14H19N3O2
reactant | Methylmagnesium chloride | 0.06 mol, 3M, 2 mL | C[Mg]Cl
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 1-(1,3-Diethyl-1H-indazol-6-yl)-ethanone | 200 mg | C(C)N1N=C(C2=CC=C(C=C12)C(C)=O)CC | C13H16N2O
